US08754100B2
Synthesis of ethyl 4-ethoxycarbonimidoyl-4-(2-trifluoromethylphenyl)butanoate hydrochloride
Methyl 4-cyano-4-(2-trifluoromethylphenyl)butanoate (200 mg) was dissolved in ethanol (1.03 mL), and acetyl chloride (838 μl) was added at 0° C. The mixture was heated to room temperature and the reaction was initiated. After stirring for 24 hours, concentration under reduced pressure gave a crude product of the title compound as an oil (300 mg).

reactant | Methyl 4-cyano-4-(2-trifluoromethylphenyl)butanoate | 200 mg | C(#N)C(CCC(=O)OC)C1=C(C=CC=C1)C(F)(F)F | C13H12F3NO2
reactant | acetyl chloride | 838 μl | C(C)(=O)Cl | C2H3ClO
reactant | ethanol | 1.03 mL | C(C)O | C2H6O
product | ethyl 4-ethoxycarbonimidoyl-4-(2-trifluoromethylphenyl)butanoate hydrochloride | 300 mg | Cl.C(C)OC(=N)C(CCC(=O)OCC)C1=C(C=CC=C1)C(F)(F)F | InChI=1S/C16H20F3NO3.ClH/c1-3-22-14(21)10-9-12(15(20)23-4-2)11-7-5-6-8-13(11)16(17,18)19;/h5-8,12,20H,3-4,9-10H2,1-2H3;1H
